US09034882B2
To a solution of methyl 2-(2-bromo-7-chloro-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate (1.33 g, 4.18 mmol, 1 equiv) in DMF (14 mL) was added 4,4-dimethylpiperidine hydrochloride (0.75 g, 5.01 mmol, 1.2 equiv) and DIPEA (1.75 mL, 10.02 mmol, 2.4 equiv). The reaction was then heated in an oil bath at 60° C. Upon completion, the reaction was removed from heating, diluted with water, and extracted with EtOAc (×2). The combined EtOAc extracts were dried over Na2SO4 and concentrated in vacuo. The crude product was purified by silica gel flash chromatography (0-100% EtOAc/hexane) to provide methyl 2-(2-bromo-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate as an off white solid (1.50 g, 91%). 1H NMR (400 MHz, CDCl3) δ 6.53 (s, 1H), 3.80 (s, 2H), 3.77 (s, 3H), 3.41 (br. s., 4H), 2.51 (s, H), 1.54 (t, J=5.6 Hz, 4H), 1.09 (s, 6H); LCMS (ESI, M+1): 395.25.

reactant | methyl 2-(2-bromo-7-chloro-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 4.18 mmol, 1.33 g, 1 equiv | BrC1=NN2C(N=C(C(=C2Cl)CC(=O)OC)C)=C1 | C10H9BrClN3O2
reactant | 4,4-dimethylpiperidine hydrochloride | 5.01 mmol, 0.75 g, 1.2 equiv | Cl.CC1(CCNCC1)C
reactant | DIPEA | 10.02 mmol, 1.75 mL, 2.4 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 14 mL | CN(C)C=O | C3H7NO
product | methyl 2-(2-bromo-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | BrC1=NN2C(N=C(C(=C2N2CCC(CC2)(C)C)CC(=O)OC)C)=C1 | C17H23BrN4O2
